US07612078B2
6-Chloro-5-methylthieno[2,3-d]pyrimidin-4-ol
To a solution of 5-methylthieno[2,3-d]pyrimidin-4-ol (2 g, 12 mmol) in acetic acid (30 mL) at room temperature, chlorine gas was bubbled for 3 h. The reaction mixture was stirred at same temperature for 2 days. The solvent was evaporated under reduced pressure at 40° C. and the residue was dissolved in ethyl acetate (30 mL) and washed with sat. NaHCO3 solution (3×20 mL). The organic layer was dried over sodium sulfate and evaporated to get the title compound as a pale yellow solid (2 g, 82%). 1H NMR (400 MHz, CDCl3 and CD3OD): δ 7.90 (s, 1H), 2.55 (s, 3H). MS (ESI) m/z: Calculated: 200.65; Observed: 201.3 (M++1).

reactant | 5-methylthieno[2,3-d]pyrimidin-4-ol | 12 mmol, 2 g | CC1=CSC=2N=CN=C(C21)O | C7H6N2OS
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 6-Chloro-5-methylthieno[2,3-d]pyrimidin-4-ol | 2 g, 82% | ClC1=C(C2=C(N=CN=C2O)S1)C | C7H5ClN2OS
